US07345178B2
A mixture of 5-nitrothiophene-2-carboxylic acid (5.000 g, 28.9 mmol) in SOCl2 (40 mL) was refluxed for 2 h. The excess SOCl2 was evaporated in vacuo and 3-amino-4-hydroxypyridine (2.65 g, 24.1 mmol) in pyridine (150 mL) was added dropwise. The reaction mixture was stirred at 10° C. overnight. Na2CO3 (1.533 g, 14.5 mmol) in water (100 mL) was added and the resultant mixture was stirred for additional 1 h. The precipitate was collected by filtration, washed with 10% Na2CO3 (120 mL), and dried in vacuo to afford N-(4-hydroxypyridin-3-yl)-5-nitrothiophene-2-carboxamide as a yellow powder (5.87 g, yield: 92%).

reactant | 5-nitrothiophene-2-carboxylic acid | 28.9 mmol, 5.000 g | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
reactant | 3-amino-4-hydroxypyridine | 24.1 mmol, 2.65 g | NC=1C=NC=CC1O | C5H6N2O
reactant | Na2CO3 | 14.5 mmol, 1.533 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | SOCl2 | 40 mL | O=S(Cl)Cl | Cl2OS
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | N-(4-hydroxypyridin-3-yl)-5-nitrothiophene-2-carboxamide | 5.87 g, yield: 92% | OC1=C(C=NC=C1)NC(=O)C=1SC(=CC1)[N+](=O)[O-] | C10H7N3O4S
